US07361765B2
reacting said 3,4-dihydroxytetrahydro-2H-pyran-4-sulfonic acid, sodium salt with methanol and trimethylorthoformate in the presence of an acid to form 4,4-dimethoxytetrahydro-2H-pyran-3-ol; and

reactant | 3,4-dihydroxytetrahydro-2H-pyran-4-sulfonic acid | OC1COCCC1(S(=O)(=O)O)O | C5H10O6S
reactant | sodium | [Na] | Na
reactant | trimethylorthoformate | COC(OC)OC | C4H10O3
solvent | methanol | CO | CH4O
product | 4,4-dimethoxytetrahydro-2H-pyran-3-ol | COC1(C(COCC1)O)OC | C7H14O4
